US05140106
370 mg of anhydrous sodium borohydride is added in portions with ice/water cooling to 5 ml of trichloroacetic acid and 5 ml of acetonitrile. Then, 500 mg of 17beta-hydroxy-4-androsten-3-one in 9 ml of methylene chloride is instilled. It is stirred at room temperature and is worked up after 30 minutes, as described in example 1. 400 mg of 4-androsten-17beta-ol with melting point 144°-147° C. is obtained.

reactant | sodium borohydride | 370 mg | [BH4-].[Na+]
reactant | trichloroacetic acid | 5 ml | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | 17beta-hydroxy-4-androsten-3-one | 500 mg | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C19H28O2
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
product | 4-androsten-17beta-ol | 400 mg | C[C@@]12[C@H](CC[C@H]1[C@@H]1CCC3=CCCC[C@]3(C)[C@H]1CC2)O | C19H30O
